### PR TITLE
[Merged by Bors] - feat(Algebra): add two lemmas about submodule smul

### PR DESCRIPTION
**Pull request by BryceT233**
This is the first PR split from the larger PR #34936 to make the review process easier.

It adds the following two lemmas regarding pointwise smul and restrictScalars:
`Submodule.restrictScalars_image_smul_eq` and `Submodule.restrictScalars_map_smul_eq`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by joneugster** [comment]
t-algebra

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 1]
```diff
@@ -900,4 +900,25 @@ end Quotient
 
 end AlgebraCommSemiring
 
+open scoped Pointwise in
+theorem restrictScalars_image_smul_eq_smul_restrictScalars {S M : Type*} [AddCommGroup M]
+    [Module R M] [CommSemiring S] [Module S M] [Algebra S R] [IsScalarTower S R M]
+    (s : Set S) (N : Submodule R M) : ((algebraMap S R) '' s • N).restrictScalars S =
+      s • N.restrictScalars S := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Algebra/Operations.lean]: Just nipticks as follows:

- No need for `open scoped Pointwise`
- We can assume `[AddCommMonoid M]` rather than `[AddCommGroup M]`
- Let's avoid breaking lines inside equalities
- Typeclass grouping
- Slightly shorter name

So how about:
```suggestion
theorem restrictScalars_image_smul_eq {S M : Type*}
    [CommSemiring S] [Algebra S R]
    [AddCommMonoid M] [Module R M] [Module S M] [IsScalarTower S R M]
    (s : Set S) (N : Submodule R M) :
    (algebraMap S R '' s • N).restrictScalars S = s • N.restrictScalars S := by
```

File: Mathlib/RingTheory/Ideal/Maps.lean [hunk 2]
```diff
@@ -981,6 +981,14 @@ theorem annihilator_span_singleton (g : M) :
 @[simp]
 theorem mul_annihilator (I : Ideal R) : I * annihilator I = ⊥ := by rw [mul_comm, annihilator_mul]
 
+theorem restrictScalars_map_smul_eq_smul_restrictScalars {S M : Type*} [AddCommGroup M]
+    [Module R M] [CommSemiring S] [Module S M] [Algebra S R] [IsScalarTower S R M]
+      (I : Ideal S) (N : Submodule R M) : ((I.map (algebraMap S R)) • N).restrictScalars S =
+    I • N.restrictScalars S := by
+  have := Submodule.restrictScalars_image_smul_eq_smul_restrictScalars (I : Set S) N
```
Comment (ocfnash) [inline Mathlib/RingTheory/Ideal/Maps.lean]: Again, just nitpicks:
```suggestion
theorem restrictScalars_map_smul_eq {S M : Type*}
    [CommSemiring S] [Algebra S R]
    [AddCommMonoid M] [Module R M] [Module S M] [IsScalarTower S R M]
    (I : Ideal S) (N : Submodule R M) :
    ((I.map (algebraMap S R)) • N).restrictScalars S = I • N.restrictScalars S := by
  have := N.restrictScalars_image_smul_eq_smul_restrictScalars (I : Set S)
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
